US07189741B2
A. Preparation of 4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester
This compound was prepared following the procedure described in example 13 (part B) at room temperature for 16 hours, starting with 11 g (40 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 7.2 g (44 mmol) of 3-chloromethyl-pyridine hydrochloride. After standard work-up, 13 g of a crude oil was obtained. This crude was precipitated with ethyl ether affording 10.8 g (90% of yield) of a white solid.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 40 mmol, 11 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 3-chloromethyl-pyridine hydrochloride | 44 mmol, 7.2 g | Cl.ClCC=1C=NC=CC1
product | 4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 13 g | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC=1C=NC=CC1 | C22H25N3O2
